US04551530
3-(Dimethylamino)-1-(3-pyridinyl)-2-buten-1-one
A mixture of 40.0 g of 3-acetylpyridine and 50.0 ml of dimethylacetamide dimethylacetal was heated on a steam bath for 6 hours under argon. The volatile components were then removed in vacuo and hexane was added to the resultant thick syrup to crystallize the product. Filtration gave 33.5 g of the desired product as red-brown crystals, mp 62°-64° C.

reactant | 3-acetylpyridine | 40.0 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | dimethylacetamide dimethylacetal | 50.0 ml | COC(C)(N(C)C)OC | C6H15NO2
product | 3-(Dimethylamino)-1-(3-pyridinyl)-2-buten-1-one | 33.5 g | CN(C(=CC(=O)C=1C=NC=CC1)C)C | C11H14N2O
